US08703768B2
Step 3: 3-(Pyrimidin-5-ylamino)-6-(tetrahydro-furan-3-yl)-pyrazine-2-carboxylic acid methyl ester
A mixture of 3-amino-6-(tetrahydrofuran-3-yl)pyrazine-2-carboxylic acid methyl ester (300 mg, 1.34 mmol), 5-bromopyrimidine (299 mg, 1.88 mmol) and potassium carbonate (334 mg, 2.42 mmol) in xylene (15 ml) and water (51 μl, 2.82 mmol) was evacuated and vented with argon. Palladium (II) acetate (12.1 mg, 54 μmol) and xantphos (23.3 mg, 40 μmol) were added and the reaction mixture was stirred at 140° C. for 16 hr. The reaction mixture was cooled to r.t., poured into 50 ml ethyl acetate and extracted with water. The organic phase was washed with brine and the aqueous layers were back-extracted with ethyl acetate. The organic layers were dried and the solvent was evaporated. The product was obtained after purification by silica gel chromatography using a heptane/ethyl acetate gradient as light solid (211 mg, 52%).

reactant | 3-amino-6-(tetrahydrofuran-3-yl)pyrazine-2-carboxylic acid methyl ester | 1.34 mmol, 300 mg | COC(=O)C1=NC(=CN=C1N)C1COCC1 | C10H13N3O3
reactant | 5-bromopyrimidine | 1.88 mmol, 299 mg | BrC=1C=NC=NC1 | C4H3BrN2
reactant | potassium carbonate | 2.42 mmol, 334 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 2.82 mmol, 51 μl | O | H2O
reactant | xantphos | 40 μmol, 23.3 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | xylene | 15 ml | C=1(C(=CC=CC1)C)C | C8H10
catalyst | Palladium (II) acetate | 54 μmol, 12.1 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 3-(Pyrimidin-5-ylamino)-6-(tetrahydro-furan-3-yl)-pyrazine-2-carboxylic acid methyl ester | COC(=O)C1=NC(=CN=C1NC=1C=NC=NC1)C1COCC1 | C14H15N5O3
